US08012956B2
tert-Butyl 4-(5-(methoxy(methyl)carbamoyl)pyridin-2-yl)piperazine-1-carboxylate (1.45 g, 4.1 mmol) was taken into THF (20 mL) and the solution cooled to 0° C. under a nitrogen atmosphere. Methyl magnesium bromide (3.0M in ethyl ether, 3.5 mL) was added in portions and the mixture was allowed to stir 10 minutes followed by addition of another 1.5 mL aliquot then the mixture was warmed to room temperature. The solution was then partitioned with ethyl ether and water and the organic phase washed with brine then dried over anhydrous sodium sulfate, filtered and concentrated. The residue was taken into methanol (25 mL) followed by portion-wise addition of sodium borohydride solid (250 mg) over 10 minutes. The mixture was allowed to stir at room temperature another 10 minutes then concentrated. The residue was partitioned with ethyl ether and water and the aqueous phase extracted ethyl ethyl ether (2×). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to give tert-butyl 4-(5-(1-hydroxyethyl)pyridin-2-yl)piperazine-1-carboxylate (1.48 g) which was carried forward without further purification.

reactant | tert-Butyl 4-(5-(methoxy(methyl)carbamoyl)pyridin-2-yl)piperazine-1-carboxylate | 4.1 mmol, 1.45 g | CON(C(=O)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C17H26N4O4
reactant | Methyl magnesium bromide | 3.0M, 3.5 mL | C[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(5-(1-hydroxyethyl)pyridin-2-yl)piperazine-1-carboxylate | 1.48 g | OC(C)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H25N3O3
